US07517995B2
2-(3-ethyl-[1,2,4]oxadiazol-5-yl)-ethylamine hydrochloride (XV.12)
2.05 g (8.50 mmol) tert-butyl[2-(3-ethyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamate are placed in 20 ml dichloromethane, 40 ml 1 molar ethereal hydrochloric acid are added. The reaction mixture is stirred for 16 hours at ambient temperature and for 4 hours at 40° C. After the addition of a further 10 ml ethereal hydrochloric acid the mixture is stirred for another 72 hours at ambient temperature. The suspension is evaporated down.

reactant | tert-butyl[2-(3-ethyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamate | 8.50 mmol, 2.05 g | C(C)(C)(C)OC(NCCC1=NC(=NO1)CC)=O | C11H19N3O3
reactant | hydrochloric acid | 1 molar, 40 ml | Cl | ClH
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(3-ethyl-[1,2,4]oxadiazol-5-yl)-ethylamine hydrochloride | Cl.C(C)C1=NOC(=N1)CCN | InChI=1S/C6H11N3O.ClH/c1-2-5-8-6(3-4-7)10-9-5;/h2-4,7H2,1H3;1H
